US09145415B2
To a solution of 5-ethynyl-N2-(3-fluorophenyl)-N4-propylpyrimidine-2,4-diamine (S2, 30 mg) and tert-butyldimethyl(3-nitropropyloxy)silane (S3, 146 mg) synthesized according to the method described in Journal of Medicinal Chemistry, 2011, 54, pp. 7280-7288 in toluene (1 mL), phenyl isocyanate (36 μL) and triethylamine (46 μL) were added at room temperature, and the mixture was stirred at 60° C. for 4 hours and 40 minutes. To the reaction mixture, phenyl isocyanate (36 μL) and triethylamine (46 μL) were added, and the mixture was further stirred at 60° C. for 6 hours. The reaction mixture was cooled to room temperature, and then water and ethyl acetate were added to the reaction mixture. The organic layer was separated, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain 5-(3-(2-((tert-butyldimethylsilyl)oxy)ethyl)isoxazol-5-yl)-N2-(3-fluorophenyl)-N4-propylpyrimidine-2,4-diamine (S4, 22 mg).

reactant | 5-ethynyl-N2-(3-fluorophenyl)-N4-propylpyrimidine-2,4-diamine | 30 mg | C(#C)C=1C(=NC(=NC1)NC1=CC(=CC=C1)F)NCCC | C15H15FN4
reactant | tert-butyldimethyl(3-nitropropyloxy)silane | 146 mg | C(C)(C)(C)[Si](OCCC[N+](=O)[O-])(C)C | C9H21NO3Si
reactant | phenyl isocyanate | 36 μL | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | triethylamine | 46 μL | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 36 μL | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | triethylamine | 46 μL | C(C)N(CC)CC | C6H15N
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-(3-(2-((tert-butyldimethylsilyl)oxy)ethyl)isoxazol-5-yl)-N2-(3-fluorophenyl)-N4-propylpyrimidine-2,4-diamine | 22 mg | [Si](C)(C)(C(C)(C)C)OCCC1=NOC(=C1)C=1C(=NC(=NC1)NC1=CC(=CC=C1)F)NCCC | C24H34FN5O2Si
